US05856511
2-Bromoacetylfuran
To a 5 liter round bottomed flask is added 2-acetylfuran (440 grams, 4 moles) and 2.4 liters of ethyl ether at 5 C in an ice bath. To this solution is added, dropwise over a period of two hours, with vigorous stirring, 230 mL bromine (713 grams, 4.46 moles). After the bromine addition is complete, the reaction mixture is stirred for an additional two hours, and then quenched with the addition of 300 mL of water. The mixture is then allowed to separate overnight, and the ether layer is washed with water (3×300 mL), dried over magnesium sulfate, and filtered. Removal of the solvent affords the title product having 1H-NMR (CDCl3) delta 7.53 (t, 1J, J=0.72 Hz), 7.21 (d, 1H, J=3.68 Hz), 6.46 (dd, 1H, J=3.66 Hz and 1.48 Hz), 4.20 (s, 2H). 13C (CDCl3 189.22, 150.12, 147.61, 119.42, 112.93, 30.46 ppm.

reactant | 2-acetylfuran | 4 moles, 440 grams | C(C)(=O)C=1OC=CC1 | C6H6O2
reactant | bromine | 4.46 moles, 230 mL, 713 grams | BrBr | Br2
solvent | ethyl ether | 2.4 liters | C(C)OCC | C4H10O
product | 2-Bromoacetylfuran | BrCC(=O)C=1OC=CC1 | C6H5BrO2
